US07790724B2
b) 2-(4,4-Dimethyl-cyclohex-1-enyl)-pyridin-3-ylamine
A solution of 90.0 mg (0.387 mmol) of 2-(4,4-dimethyl-cyclohex-1-enyl)-3-nitro-pyridine (as prepared in the previous step) in EtOH (10 mL) and water (5 mL) was treated with AcOH (3 drops) and 121 mg (2.17 mmol) of Fe powder then heated to 70° C. for 1.5 h. The mixture was quenched with saturated aqueous NaHCO3 (20 mL) and extracted with CH2Cl2 (3×40 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to afford 80.0 mg (100%) of the title product as a tan glass: Mass spectrum (ESI, m/z): Calcd. for C13H18N2, 203.2 (M+H), found 203.2.

reactant | 2-(4,4-dimethyl-cyclohex-1-enyl)-3-nitro-pyridine | 0.387 mmol, 90.0 mg | CC1(CC=C(CC1)C1=NC=CC=C1[N+](=O)[O-])C | C13H16N2O2
reactant | water | 5 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | AcOH | 3 drops | CC(=O)O | C2H4O2
catalyst | Fe | 2.17 mmol, 121 mg | [Fe] | Fe
product | 2-(4,4-Dimethyl-cyclohex-1-enyl)-pyridin-3-ylamine | 80.0 mg, 100% | CC1(CC=C(CC1)C1=NC=CC=C1N)C | C13H18N2
